US06825188B2
c) (±)-8-[3-(4,6-Dimethylpyridin-2-ylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
According to the procedure of Example 1(c), except substituting methyl (±)-8-[3-[(4,6-dimethylpyridin-2-yl)amino]-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate for the ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, the title compound was prepared as a white solid: MS (ES) m/e 412.2 (M+H)+. Anal. Calcd for C23H29N3O4.0.5 HCl. 0.25 H2O: C, 63.62; H, 6.96; N, 9.68. Found: C, 63.62; H, 6.96; N, 9.69.

reactant | methyl (±)-8-[3-[(4,6-dimethylpyridin-2-yl)amino]-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | CC1=CC(=NC(=C1)C)NCCCOC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C24H31N3O4
reactant | ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OCC)C=C1 | C22H27N3O4
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
product | (±)-8-[3-(4,6-Dimethylpyridin-2-ylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | CC1=CC(=NC(=C1)C)NCCCOC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)O)C=C1 | C23H29N3O4
